US05705502
100 mg (0.293 mmol) of N-(3-trifluoromethyl-phenyl)-4-(2-cyano4-pyridyl)-2-pyrimidineamine are stirred in 15 ml of ethanol and 15 ml of 2N sodium hydroxide solution for 3 hours at 60°. After acidifying with 4N hydrochloric acid, N-(3-trifluoromethyl-phenyl)-4-(2-carboxy-4-pyridyl)-2-pyrimidineamine is obtained; m.p. 241°-245°, FAB-MS: 361 (M+ +H).

reactant | N-(3-trifluoromethyl-phenyl)-4-(2-cyano4-pyridyl)-2-pyrimidineamine | 0.293 mmol, 100 mg | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C#N)(F)F | C17H10F3N5
reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | N-(3-trifluoromethyl-phenyl)-4-(2-carboxy-4-pyridyl)-2-pyrimidineamine | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C(=O)O)(F)F | C17H11F3N4O2
